US08058293B2
tert-butyl 3-((5-tert-butyl-2-iminothiazol-3(2H)-yl)methyl)azetidine-1-carboxylate
3,3-Dimethylbutanal (0.7 mL, 5.4 mmol), tert-butyl 3-(aminomethyl)azetidine-1-carboxylate (Astatech™, 1.0 g, 5.4 mmol) were mixed with 2 g of 4 Å molecular sieves in 5 mL of dry acetonitrile at room temperature for 20 hours. The reaction was filtered through Celite, washed with 5 mL of acetonitrile and the filtrate used without further purification. Potassium thiocyanate (0.7 g, 7.1 mmol) was added and the mixture heated to 50° C. for 10 minutes. Iodine (1.4 g, 5.4 mmol) was added and the reaction mixture was continued to stir at 50° C. for 6 hours. The reaction mixture was cooled to room temperature, 10 mL of acetonitrile was added, followed byt 10 mL of 20% Na2S2O5. The phases were separated and the organic phase was dried with Na2SO4, filtered, and the solvent removed to provide the title compound. LC/MS m/z 326.3 (M+H)+. The product was used without further purification.

reactant | 3,3-Dimethylbutanal | 5.4 mmol, 0.7 mL | CC(CC=O)(C)C | C6H12O
reactant | tert-butyl 3-(aminomethyl)azetidine-1-carboxylate | 5.4 mmol, 1.0 g | NCC1CN(C1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | Potassium thiocyanate | 7.1 mmol, 0.7 g | [S-]C#N.[K+]
reactant | Iodine | 5.4 mmol, 1.4 g | II | I2
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | tert-butyl 3-((5-tert-butyl-2-iminothiazol-3(2H)-yl)methyl)azetidine-1-carboxylate | C(C)(C)(C)C1=CN(C(S1)=N)CC1CN(C1)C(=O)OC(C)(C)C | C16H27N3O2S
